US04643758
To a solution of 0.21 g of sodium dissolved in 10 ml of ethanol was added 2.75 g of 4-chloro-N-[3-cyano-4-(1,1-dimethylethyl)-2-thienyl]-2-methylbutanamide dissolved in 35 ml ethanol dropwise. The mixture was allowed to stir at room temperature for about one hour and the solvent was removed in vacuo. The residue was combined with 10 ml ethanol and 250 ml water and the precipitate was collected by filtration. The collected solid was recrystallized from hexane to afford 1.8 g of N-[3-cyano-4-(1,1-dimethylethyl)-2-thienyl]-3-methyl-2-pyrrolidinone. Yield 75%. mp=92°-94° C.

reactant | sodium | 0.21 g | [Na] | Na
reactant | 4-chloro-N-[3-cyano-4-(1,1-dimethylethyl)-2-thienyl]-2-methylbutanamide | 2.75 g | ClCCC(C(=O)NC=1SC=C(C1C#N)C(C)(C)C)C | C14H19ClN2OS
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | N-[3-cyano-4-(1,1-dimethylethyl)-2-thienyl]-3-methyl-2-pyrrolidinone | 1.8 g, Yield 75% | C(#N)C1=C(SC=C1C(C)(C)C)N1C(C(CC1)C)=O | C14H18N2OS
